US04680401
A mixture of 43.8 g of ethyl 2,4-dichloro-benzoate and 8.2 g of anhydrous acetonitrile is added dropwise to a suspension of 6.1 g of 80% strength sodium hydride in 100 ml of anhydrous tetrahydrofuran in the course of about 1 hour under reflux. The mixture is heated at the boiling point under reflux for a further hour and cooled to room temperature and 150 ml of ether are added. The precipitate is filtered off with suction and dissolved in 50 ml of ice-water and the solution is acidified to pH =6 with 10% strength hydrochloric acid. The precipitate is filtered off cold with suction, rinsed with ice-water and dried in vacuo at 40° C. 12 g of 2,4-dichlorobenzoylacetonitrile of melting point 96°-98° C. are obtained.

reactant | ethyl 2,4-dichloro-benzoate | 43.8 g | ClC1=C(C(=O)OCC)C=CC(=C1)Cl | C9H8Cl2O2
reactant | acetonitrile | 8.2 g | C(C)#N | C2H3N
reactant | sodium hydride | [H-].[Na+]
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,4-dichlorobenzoylacetonitrile | 12 g | ClC1=C(C(=O)CC#N)C=CC(=C1)Cl | C9H5Cl2NO
